US07498337B2
1-[5-(3-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride
tert-Butyl{[5-(3-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (280 mg) was dissolved in ethyl acetate (3 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (6 mL) was added, and the mixture was stirred at room temperature for 16 hr. The reaction solution was basified by adding dropwise to a 6% aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-hexane=1:1→9:1) to give a free salt of the title compound as a pale-yellow oil. The obtained free salt was dissolved in ethyl acetate, a 4 mol/L hydrogen chloride-ethyl acetate solution was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate and hexane, and recrystallized from ethyl acetate-ethanol to give the title compound as colorless crystals (yield 84 mg, 35%).

reactant | tert-Butyl{[5-(3-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 280 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC(=CC=C1)F)S(=O)(=O)C=1C=NC=CC1)=O | C22H24FN3O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 6 mL | C(C)(=O)OCC.Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 1-[5-(3-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride | Cl.FC=1C=C(C=CC1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CNC | InChI=1S/C17H16FN3O2S.ClH/c1-19-10-13-8-17(14-4-2-5-15(18)9-14)21(12-13)24(22,23)16-6-3-7-20-11-16;/h2-9,11-12,19H,10H2,1H3;1H
